US04158093
To 166.4 parts of 4-cyanopyridine in 500 cc of isopropanol was added 170 parts of a 15.9% solution of hydrogen chloride in isopropanol. To this was added 292 parts of 2-vinylpyridine in 500 cc of isopropanol, and the resulting mixture heated to reflux for 5.5 hours. The reaction was cooled to 25° C. and 261 parts of 1-[2-(2-pyridyl)ethyl]-4-cyanopyridinium chloride hydrochloride isolated on filtration.

reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | hydrogen chloride | Cl | ClH
reactant | 2-vinylpyridine | C(=C)C1=NC=CC=C1 | C7H7N
solvent | isopropanol | 500 cc | C(C)(C)O | C3H8O
solvent | isopropanol | 500 cc | C(C)(C)O | C3H8O
product | 1-[2-(2-pyridyl)ethyl]-4-cyanopyridinium chloride hydrochloride | Cl.[Cl-].N1=C(C=CC=C1)CC[N+]1=CC=C(C=C1)C#N | InChI=1S/C13H12N3.2ClH/c14-11-12-4-8-16(9-5-12)10-6-13-3-1-2-7-15-13;;/h1-5,7-9H,6,10H2;2*1H/q+1;;/p-1
